.title dual rc ladder
* file name rcrcac.cir
R1 int in 10k
V1 in 0 dc 0 ac 1 PULSE (0 5 1u 1u 1u 1 1)
R2 out int 1k
C1 int 0 1u
C2 out 0 100n

.control
ac dec 10 1 100k
*write ac.raw
plot vdb(out)
plot ph(out)
.endc

.end